US04775671
A mixture of 3.96 g (10.3 mmol) of (S)-8-chloro-N-[1-(dimethylamino)ethylidene]-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide, 25 ml of glacial acetic acid and 0.65 ml (12.4 mmol) of methylhydrazine is stirred at 90° for 1.75 hours. The solution is then evaporated in vacuo and the residue is chromatographed on silica gel while eluting with ethyl acetate/methanol (19:1). After recrystallization from methylene chloride/ethyl acetate there is obtained (S)-8-chloro-1-(1,3-dimethyl-1H-1,2,4-triazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 221°-222°.

reactant | (S)-8-chloro-N-[1-(dimethylamino)ethylidene]-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide | 10.3 mmol, 3.96 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N=C(C)N(C)C)CCC1)=O | C19H20ClN5O2
reactant | methylhydrazine | 12.4 mmol, 0.65 ml | CNN | CH6N2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | (S)-8-chloro-1-(1,3-dimethyl-1H-1,2,4-triazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NC(=NN3C)C)CCC1)=O | C18H17ClN6O
